US08497264B2
In a 25-mL flask, the (R)-3-bromo-7-(2-fluoropyridin-3-yl)-5′,6′-dihydrospiro[chromeno[2,3-b]pyridine-5,4′-[1,3]oxazin]-2′-amine (0.350 g, 0.793 mmol) was suspended in 1,1-dimethoxy-N,N-dimethylmethanamine (5.29 mL, 39.7 mmol). The reaction mixture was heated to 100° C. for 1 h. The reaction was concentrated, and the residue was taken up in 5% MeOH/DCM (60 mL) and the organic phase was extracted with dilute brine (2×8 mL), then was dried over sodium sulfate and concentrated. The residue was purified by chromatography (3.5% MeOH/DCM) to afford (R,E)-N′-(3-bromo-7-(2-fluoropyridin-3-yl)-5′,6′-dihydrospiro[chromeno[2,3-b]pyridine-5,4′-[1,3]oxazin]-2′-yl)-N,N-dimethylformimidamide (394 mg, 0.793 mmol).

reactant | (R)-3-bromo-7-(2-fluoropyridin-3-yl)-5′,6′-dihydrospiro[chromeno[2,3-b]pyridine-5,4′-[1,3]oxazin]-2′-amine | 0.793 mmol, 0.350 g | BrC=1C=C2C(=NC1)OC1=CC=C(C=C1[C@@]21N=C(OCC1)N)C=1C(=NC=CC1)F | C20H14BrFN4O2
reactant | 1,1-dimethoxy-N,N-dimethylmethanamine | 39.7 mmol, 5.29 mL | COC(N(C)C)OC | C5H13NO2
product | (R,E)-N′-(3-bromo-7-(2-fluoropyridin-3-yl)-5′,6′-dihydrospiro[chromeno[2,3-b]pyridine-5,4′-[1,3]oxazin]-2′-yl)-N,N-dimethylformimidamide | 0.793 mmol, 394 mg | BrC=1C=C2C(=NC1)OC1=CC=C(C=C1[C@@]21N=C(OCC1)/N=C/N(C)C)C=1C(=NC=CC1)F | C23H19BrFN5O2
